US09422271B2
A mixture of crude 5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonyl chloride (1.9 g, 6.0 mmol, 1.0 equiv.), t-butylamine (25 mL) and TEA (10 mL) in CH2Cl2 (500 mL) was stirred at rt for 2 h. The reaction mixture was diluted with water, the organic layer was washed (brine), dried (Na2SO4), evaporated and purified by silica gel chromatography (EA/PE 1:1) to afford N-tert-butyl-5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide (500 mg, 24%). LC-MS (m/z)=354.1 [M+H]+

reactant | 5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonyl chloride | 6.0 mmol, 1.9 g, 1.0 equiv. | C1(CC1)C1=NC(=NC(=C1)O)C1=CC=C(S1)S(=O)(=O)Cl | C11H9ClN2O3S2
reactant | t-butylamine | 25 mL | C(C)(C)(C)N | C4H11N
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-tert-butyl-5-(4-cyclopropyl-6-hydroxypyrimidin-2-yl)thiophene-2-sulfonamide | 500 mg, 24% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC(=CC(=N1)C1CC1)O | C15H19N3O3S2
